US05736534
6,7-Dimethoxy-4-(2-methyl-2,3-dihydro-indol-1-yl)-quinazoline
Utilizing a procedure analogous to that described in Example 1, this product was prepared in 91% yield from 2-methyl-indoline (1.1 eq.) and 4-chloro-6,7-dimethoxy-quinazoline (1.0 eq) in i-PrOH. (M.P. 154°-156.5° C.; GC-MS: 321 (M+); anal. RP18-HPLC RT: 4.93 min.).

reactant | 2-methyl-indoline | 1.1 eq. | CC1NC2=CC=CC=C2C1 | C9H11N
reactant | 4-chloro-6,7-dimethoxy-quinazoline | 1.0 eq | ClC1=NC=NC2=CC(=C(C=C12)OC)OC | C10H9ClN2O2
solvent | i-PrOH | CC(C)O | C3H8O
product | 6,7-Dimethoxy-4-(2-methyl-2,3-dihydro-indol-1-yl)-quinazoline | 91% yield | COC=1C=C2C(=NC=NC2=CC1OC)N1C(CC2=CC=CC=C12)C | C19H19N3O2
